US06727264B1
N-(2-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}ETHYL)-2-NAPHTHAMIDE:
Prepared by Procedure Q1 (THF) and Scheme AT using N-(3-[1-(2-aminoethyl)-4-piperidinyl]phenyl)-2-methylpropanamide and 2-naphthoyl chloride: ESMS m/e: 444. 2 (M+H)+.

reactant | N-(3-[1-(2-aminoethyl)-4-piperidinyl]phenyl)-2-methylpropanamide | NCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C17H27N3O
reactant | 2-naphthoyl chloride | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | THF | C1CCOC1 | C4H8O
product | N-(2-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}ETHYL)-2-NAPHTHAMIDE | C(C(C)C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCNC(=O)C1=CC2=CC=CC=C2C=C1 | C28H33N3O2
